US06930120B2
2-(4-Chlorophenoxy)-2-methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid
The title compound was prepared from 2-(4-chlorophenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester and toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester by the procedure of Example 29. 1H NMR (400 MHz, CDCl3) δ 7.59 (d, 1H, J=4.30 Hz), 7.38 (d, 1H, J=4.30 Hz), 7.20-7.16 (m, 4H), 7.06 (dd, 1H, J=8.60 Hz, 3.91 Hz), 6.83 (t, 4H, J=8.60 Hz), 4.17 (t, 2H, J=6.65 Hz), 3.23 (d, 1H, J=14.08 Hz), 3.14 (d, 1H, J=14.08 Hz), 2.97 (t, 2H, J=6.65 Hz), 2.36 (s, 3H), 1.41 (s, 3H). MS (ES+) m/z mass calcd for C26H25ClNO5S 498.12, found 498.1.

reactant | 2-(4-chlorophenoxy)-3-(4-hydroxy-phenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC=C(C=C1)Cl)=O | C18H19ClO4
reactant | toluene-4-sulfonic acid 2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C=1SC=CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C17H17NO4S2
product | 2-(4-Chlorophenoxy)-2-methyl-3-{4-[2-(5-methyl-2-thiophen-2-yl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid | ClC1=CC=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCC=2N=C(OC2C)C=2SC=CC2)C)C=C1 | C26H24ClNO5S
